US08975254B2
c) (S)-1-(3-(3,4-dichlorophenyl)-1H-pyrazol-1-yl)propan-2-amine
Into a flask containing 5-(3,4-dichlorophenyl)-1H-pyrazole (1.5 g, 7.04 mmol), (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate (1.357 g, 7.74 mmol) and triphenylphosphine (2.77 g, 10.56 mmol), dry THF (30 ml) was added under nitrogen atmosphere. After few minutes of stirring, DIAD (2.77 ml, 14.08 mmol) was added dropwise through a septum while using icebath to prevent the temperature from rising. The resulting mixture was stirred at RT overnight. The mixture was evaporated. The Boc-protection was removed by adding ethanol (7 ml), 10% HCl/EtOH (50 ml), concentrated HCl (5 ml) and stirring the mixture over the weekend. The mixture was evaporated, extracted with DCM/water. The pH of the water phase was adjusted to ˜12 using 2 M NaOH and extracting the phase again with DCM. The combined organic phases were dried with Na2SO4, filtered and evaporated. 1H-NMR (400 MHz; DMSO-d6): δ 1.00 (d, 3H), 4.70-4.87 (m, 3H), 6.84 (d, 1H), 7.65 (d, 1H), 7.76-7.84 (m, 2H), 8.02 (d, 1H).

reactant | 5-(3,4-dichlorophenyl)-1H-pyrazole | 7.04 mmol, 1.5 g | ClC=1C=C(C=CC1Cl)C1=CC=NN1 | C9H6Cl2N2
reactant | (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate | 7.74 mmol, 1.357 g | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
reactant | triphenylphosphine | 10.56 mmol, 2.77 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 14.08 mmol, 2.77 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (S)-1-(3-(3,4-dichlorophenyl)-1H-pyrazol-1-yl)propan-2-amine | ClC=1C=C(C=CC1Cl)C1=NN(C=C1)C[C@H](C)N | C12H13Cl2N3
